US07960376B2
To a solution of 3-amino-4-(2-chloroethylthio)-N-isobutylbenzamide (2.386 g, 8.32 mmol) in 2-butanone (150 ml) was added sodium iodide (1.247 g, 8.32 mmol). The reaction was heated to 70° C. and stirred for 24 hours. TLC analysis of the reaction mixture indicated consumption of starting material. The reaction mixture was concentrated in vacuo and purified by flash column chromatography [gradient elution (hexanes with 5-50% EtOAc)] to provide N-isobutyl-3,4-dihydro-2H-benzo[b][1,4]-thiazine-6-carboxamide (1.61 g, 6.43 mmol) as an off white solid. The total overall yield for steps 2-5 was 77%. LCMS (+ESI) m/z=523.34 [2M+Na]+.

reactant | 3-amino-4-(2-chloroethylthio)-N-isobutylbenzamide | 8.32 mmol, 2.386 g | NC=1C=C(C(=O)NCC(C)C)C=CC1SCCCl | C13H19ClN2OS
reactant | sodium iodide | 8.32 mmol, 1.247 g | [I-].[Na+]
solvent | 2-butanone | 150 ml | CC(CC)=O | C4H8O
product | N-isobutyl-3,4-dihydro-2H-benzo[b][1,4]-thiazine-6-carboxamide | 6.43 mmol, 1.61 g | C(C(C)C)NC(=O)C1=CC2=C(SCCN2)C=C1 | C13H18N2OS
